US04548940
2-(3-Aminopropylamino)-5-chloro-3-methylpyridine (0.92 g) and 2-methylthio-5-(4-pyridylmethyl)-4-pyrimidone (0.90 g) were heated together under reflux in pyridine (5 ml) for 46 hr. After stripping to dryness the residue was triturated with wet ether to give a white solid. Repeated recrystallisation from isopropanol/water gave 2-[3-(5-chloro-3-methylpyrid-2-ylamino)propylamino]-5-(4-pyridylmethyl)-4-pyrimidone (0.95 g; 64%) m.p. 90°-92° C.

reactant | 2-(3-Aminopropylamino)-5-chloro-3-methylpyridine | 0.92 g | NCCCNC1=NC=C(C=C1C)Cl | C9H14ClN3
reactant | 2-methylthio-5-(4-pyridylmethyl)-4-pyrimidone | 0.90 g | CSC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C11H11N3OS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-(5-chloro-3-methylpyrid-2-ylamino)propylamino]-5-(4-pyridylmethyl)-4-pyrimidone | 0.95 g, 64% | ClC=1C=C(C(=NC1)NCCCNC1=NC=C(C(N1)=O)CC1=CC=NC=C1)C | C19H21ClN6O
